US06784323B2
(R)-3-(1H-Indol-3-yl)-butanal (Table 3, entry 2):
Prepared according to general procedure from crotonaldehyde (100 μL, 1.25 mmol), indole (146 mg, 1.25 mmol), 2,4-dinitrobenzoic acid (53 mg, 0.25 mmol) and (2S,5S)-5-benzyl-2-tert-butyl-3-methyl-imidazolidin-4-one (62 mg, 0.25 mmol) in CH2Cl2 (2.25 mL) and isopropanol (0.25 mL) at −60° C. for 19 h at which time an additional 30 μL (0.36 mmol) of crotonaldehyde was added. The reaction was allowed to continue stirring for an additional 3 h to provide, after silica gel chromatography (20:80 EtOAc/hexanes), the title compound as a colorless oil (168 mg, 72% yield, 91% ee). IR (film) 3408, 2962, 2875, 2833, 2729, 1716, 1617, 1451, 1420, 1337, 1223, 1099, 1010, 772, 741 cm−1; 1H NMR (300 MHz, CDCl3) δ 9.77 (dd, J=2.1, 2.1 Hz, 1H, CHO), 8.15 (s, 1H, NH), 7.68 (dt, J=0.6, 7.8 Hz, 1H, ArH), 7.35 (dt, J=1.5, 7.8 Hz, 1H, ArH), 7.27-7.15 (m, 2H, ArH), 6.94 (d, J=2.4 Hz, 1H, NCH), 3.68 (dt, J=7.2, 21 Hz, 1H, ArCH), 2.91 (ddd, J=2.4, 6.9, 16.2 Hz, 1H, CH2CO); 2.73 (ddd, J=2.1, 7.2, 16.2 Hz, 1H, CH2CO); 1.47 (d, J=6.9 Hz, 3H, CHCH3); 13C NMR (75 MHz, CDCl3) δ 203.0, 136.5, 126.1, 122.1, 120.7, 120.1, 119.3, 118.9, 111.4, 50.9, 26.0, 21.6; HRMS (CI) exact mass calcd for (C12H13NO) requires m/z 187.0997, found m/z 153.0993. [α]D=−2.2 (c=CHCl3). The enantiomeric ratio was determined by HPLC analysis of the alcohol, obtained by NaBH4 reduction of the aldehyde, using a Chiracel OD-H and OD guard column (10:90 ethanol/hexanes, 1 mL/min); S isomer tr=20.2 min and R isomer tr=17.6 min.

reactant | crotonaldehyde | 1.25 mmol, 100 μL | C(\C=C\C)=O | C4H6O
reactant | indole | 1.25 mmol, 146 mg | N1C=CC2=CC=CC=C12 | C8H7N
reactant | 2,4-dinitrobenzoic acid | 0.25 mmol, 53 mg | [N+](=O)([O-])C1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C7H4N2O6
reactant | (2S,5S)-5-benzyl-2-tert-butyl-3-methyl-imidazolidin-4-one | 0.25 mmol, 62 mg | C(C1=CC=CC=C1)[C@H]1C(N([C@H](N1)C(C)(C)C)C)=O | C15H22N2O
reactant | crotonaldehyde | 0.36 mmol, 30 μL | C(\C=C\C)=O | C4H6O
solvent | CH2Cl2 | 2.25 mL | C(Cl)Cl | CH2Cl2
solvent | isopropanol | 0.25 mL | C(C)(C)O | C3H8O
product | (R)-3-(1H-Indol-3-yl)-butanal | 168 mg, 72% yield | N1C=C(C2=CC=CC=C12)[C@@H](CC=O)C | C12H13NO
